US04207320
4-(1,1-Dimethylethyl)aniline (185 g.) is added dropwise, with stirring, to 500 ml. of 75% sulfuric acid, followed by 376 g. of sodium 3-nitrobenzenesulfonate in one portion, then 212 g. of glycerol over a 10 minute period. The mixture is stirred for 10 minutes, heated slowly to reflux temperature over a 2.5 hour period, then stirred and heated at reflux for 9 hours. The mixture is cooled, diluted with 400 ml. of ice water, basified with 855 ml. of 50% aqueous sodium hydroxide and warmed to 70° C. The supernatant solution is decanted and extracted with toluene. The toluene extract is in turn extracted with three 800 ml. portions of 2 N hydrochloric acid. The combined acid extract is basified with excess 50% aqueous sodium hydroxide and extracted with toluene. The toluene extract is evaporated at reduced pressure to give a residue of 6-(1,1-dimethylethyl)quinoline which is purified by distillation; b.p. 90°-94° C./ 0.18 mm.

reactant | 4-(1,1-Dimethylethyl)aniline | 185 g | CC(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium 3-nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | glycerol | OCC(O)CO | C3H8O3
product | 6-(1,1-dimethylethyl)quinoline | CC(C)(C)C=1C=C2C=CC=NC2=CC1 | C13H15N
